US05245046
Methyl α-[N-methyl-3-(trifluoromethyl)benzylamino]-1-(4-chlorobenzyl)indole-3-acetate
To a magnetically stirred suspension of sodium hydride (60% oil dispersion washed two times with hexane, 80 mg, 2.0 mmol) in 5 mL of dimethylformamide (DMF) under nitrogen was added methyl α-[3-(trifluoromethyl)benzylamino]-indole-3acetate (752 mg, 2.0 mmol) dissolved in 2 mL DMF. Stirring was continued at room temperature for 10 minutes. At the end of this time, 0.322 g (2.0 mmol) of parachlorobenzyl chloride was added and the reaction stirred at room temperature for one hour. The reaction was diluted with ether and the ether solution was washed two times with water. The ether extract was then washed with saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude product. Flash chromatography of the crude product with 100 g of silica gel and using hexane-ethyl acetate (4:10) as the eluent afforded 419 mg of the title compound.

reactant | sodium hydride | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | methyl α-[3-(trifluoromethyl)benzylamino]-indole-3acetate | 2.0 mmol, 752 mg | FC(C=1C=C(CNC(C(=O)OC)C2=CNC3=CC=CC=C23)C=CC1)(F)F | C19H17F3N2O2
reactant | parachlorobenzyl chloride | 2.0 mmol, 0.322 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 2 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Methyl α-[N-methyl-3-(trifluoromethyl)benzylamino]-1-(4-chlorobenzyl)indole-3-acetate | 419 mg | CN(C(C(=O)OC)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)Cl)CC1=CC(=CC=C1)C(F)(F)F | C27H24ClF3N2O2
